US08629282B2
To a solution of 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbonyl fluoride Int-1-G (273 mg, 1.05 mmol) in ACN (6.7 mL) was added racemic (3R*,4S*,E/Z)-3-azido-N′,4-dihydroxychroman-7-carboximidamide (250 mg, 1.0 mmol) and Hunig's Base (210 μL, 1.2 mmol). The resulting solution was stirred overnight. Next, the solvent was evaporated. The resulting residue was purified by column chromatography (ISCO Combiflash Companion, 12 g silica gel, 10% ethyl acetate-hexane for 5 min then ramp to 50% ethyl acetate-hexane over 7 min then 50% ethyl acetate-hexane for 3 more min, product came out 8-10 min) to give racemic (3R*,4S*)-3-azido-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-4-ol (280 mg, 0.59 mmol, 59.3% yield): LCMS=470.98 [M+H]+, 1H NMR (400 MHz, CDCl3) δ ppm 7.82 (1H, dd, J=8.03, 1.65 Hz), 7.66-7.72 (3H, m), 7.52-7.62 (4H, m), 4.96-5.02 (1H, m), 4.43-4.51 (1H, m), 4.32-4.38 (1H, m), 4.08-4.17 (1H, m).

reactant | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbonyl fluoride | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)F | C11H5F4NO2
reactant | 3-azido-N′,4-dihydroxychroman-7-carboximidamide | 1.0 mmol, 250 mg | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1O)C(N)=NO | C10H11N5O3
reactant | Hunig's Base | 1.2 mmol, 210 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 6.7 mL | C(C)#N | C2H3N
product | racemic (3R*,4S*)-3-azido-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-4-ol | 0.59 mmol, 280 mg, 59.3% yield | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1O)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C21H13F3N6O4
